### PR TITLE
feat(QM): Add radius power operator

### PR DESCRIPTION
**Pull request by gloges**
Defines a linear operator which maps a Schwartz function `ψ` to `x ↦ ‖x‖ ^ s * ψ x`.

The resulting function is smooth away from `x = 0` and strongly measurable, and is also square-integrable as long as `s` is not too negative.

### CODE REVIEW

**Comment by gloges** [comment]
t-quantum-mechanics

**Comment by gloges** [comment]
RFC

File: PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean [hunk 1]
```diff
@@ -151,13 +155,127 @@ lemma positionOperatorSqr_eq {d : ℕ} (ε : ℝˣ) :
...
+    𝐫[s] ψ = fun x ↦ ‖x‖ ^ s • ψ x := rfl
+
+@[simp]
+lemma radiusPowOperator_apply {d : ℕ} (s : ℝ) (ψ : 𝓢(Space d, ℂ)) (x : Space d) :
+    𝐫[s] ψ x = ‖x‖ ^ s • ψ x := by
+  rw [radiusPowOperator_apply_fun]
+
+/-- `x ↦ ‖x‖ˢψ(x)` is smooth away from `x = 0`. -/
+@[fun_prop]
+lemma radiusPowOperator_apply_contDiffAt {d : ℕ} (s : ℝ) (n : ℕ∞) (ψ : 𝓢(Space d, ℂ)) {x : Space d}
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean:184]: Can you make `n` of type `WithTop ℕ∞` here?

File: PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean [hunk 2]
```diff
@@ -151,13 +155,127 @@ lemma positionOperatorSqr_eq {d : ℕ} (ε : ℝˣ) :
...
+        · have hs' : ⌈s⌉.toNat = (0 : ℝ) :=
+            Nat.cast_eq_zero.mpr <| Int.toNat_of_nonpos <| Int.ceil_le.mpr (by rwa [Int.cast_zero])
+          exact hs' ▸ hs
+      calc
+        _ ≤ ∫⁻ (x : Space d) in (Metric.ball 0 1)ᶜ, ‖C ^ 2‖ₑ * ‖‖x‖ ^ (-2 * d : ℝ)‖ₑ :=
+          setLIntegral_mono' (by measurability) hbound
+        _ = ‖C ^ 2‖ₑ * ∫⁻ (x : Space d) in (Metric.ball 0 1)ᶜ, ‖‖x‖ ^ (-2 * d : ℝ)‖ₑ :=
+          lintegral_const_mul _ (by fun_prop)
+      apply ENNReal.mul_lt_top enorm_lt_top
+      have hd' : (d + -2 * d : ℝ) < 0 := by aesop
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean]: can this be solved by `positivity` instead of `aesop`?

File: PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean [hunk 3]
```diff
@@ -151,13 +155,127 @@ lemma positionOperatorSqr_eq {d : ℕ} (ε : ℝˣ) :
...
+        _ ≤ ∫⁻ (x : Space d) in (Metric.ball 0 1), ‖C ^ 2‖ₑ * ‖‖x‖ ^ (2 * s)‖ₑ :=
+          setLIntegral_mono' measurableSet_ball (fun x _ ↦ hbound x)
+        _ = ‖C ^ 2‖ₑ * ∫⁻ (x : Space d) in (Metric.ball 0 1), ‖‖x‖ ^ (2 * s)‖ₑ :=
+          lintegral_const_mul _ (by fun_prop)
+      apply ENNReal.mul_lt_top enorm_lt_top
+      exact ((integrableOn_norm_rpow_ball_iff hd Real.zero_lt_one _).mpr h).hasFiniteIntegral
+    · -- `1 ≤ ‖x‖`: bound `‖ψ x‖` by a suitable power of `‖x‖`
+      obtain ⟨C, hC_pos, hC⟩ := ψ.decay (⌈s⌉.toNat + d) 0
+      simp only [norm_iteratedFDeriv_zero, ← Real.rpow_natCast, Nat.cast_add] at hC
+      have hbound (x : Space d) (hx : x ∈ (Metric.ball 0 1)ᶜ) :
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean]: Would it make more sense, in terms of proof structure, to make this `suffices` rather than a `have`?

File: PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean [hunk 4]
```diff
@@ -151,13 +155,127 @@ lemma positionOperatorSqr_eq {d : ℕ} (ε : ℝˣ) :
...
+  have h (x : Space d) : ‖x‖ ^ s = (inner ℝ x x) ^ (s / 2) := by
+    simp [← Real.rpow_natCast_mul, mul_div_cancel₀]
+  simp only [h]
+  exact ContDiffAt.rpow_const_of_ne (by fun_prop) (inner_self_ne_zero.mpr hx)
+
+/-- `x ↦ ‖x‖ˢψ(x)` is strongly measurable. -/
+@[fun_prop]
+lemma radiusPowOperator_apply_stronglyMeasurable {d : ℕ} (s : ℝ) (ψ : 𝓢(Space d, ℂ)) :
+    StronglyMeasurable (𝐫[s] ψ) := by
+  change StronglyMeasurable ((fun x ↦ (‖x‖.rpow s : ℂ)) * ⇑ψ)
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean]: Can you delete this line? Usually a `change` followed by an `exact` can just be replaced by just the `exact` - although here the `by measurability` might throw one off.

**Review by jstoobysmith — COMMENTED** [review]
Some small comments.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean (hunk 1 above)
Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean:184]: I don't think so, because although `ψ` is smooth it need not be analytic.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean (hunk 2 above)
Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean]: `positivity` doesn't work, but `simp` does ... not sure why I didn't try this.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean (hunk 3 above)
Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean]: Thanks, yes, I like the proof restructured with `suffices`.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean (hunk 4 above)
Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Position.lean]: The issue was that `r[s]` has a `smul` not `mul`. I've replaces the `change` with a rewrite that I think makes things clearer (removing it entirely does indeed run into problems with the implicit `measurability`).

**Review by jstoobysmith — APPROVED** [review]
This now looks good to me, thanks. Approved and will merge shortly
